US09085555B2
(5-Acetyl-pyrrolo[2,3-c]pyridazin-7-yl)-acetic acid
was prepared using similar procedures as described for the synthesis of (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid in Scheme A15 from 1-(7H-pyrrolo[2,3-c]pyridazin-5-yl)-ethanone (prepared according to J. Org. Chem. 2002, 67, 6226). MS (UPLC/MS): 220.1 [M+H]+, 178.0 [MH-CH3CO]+, 218.1 [M−H]−, 437.2 [2M−H]−.

reactant | (3-acetyl-pyrrolo[2,3-c]pyridin-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CN=CC=C21)CC(=O)O | C11H10N2O3
reactant | 1-(7H-pyrrolo[2,3-c]pyridazin-5-yl)-ethanone | N1=NC=CC2=C1NC=C2C(C)=O | C8H7N3O
product | (5-Acetyl-pyrrolo[2,3-c]pyridazin-7-yl)-acetic acid | C(C)(=O)C1=CN(C=2N=NC=CC21)CC(=O)O | C10H9N3O3
